US09034880B2
Preparation of (5-(2-(8-(hydroxymethyl)-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)ethyl)pyridin-2-yl)methanol (Compound 468)
The title compound is prepared from a mixture of (2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indol-8-yl)methanol, (5-vinylpyridin-2-yl)methanol and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | (2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indol-8-yl)methanol | CN1CC2=C(NC=3C=CC(=CC23)CO)CC1 | C13H16N2O
reactant | (5-vinylpyridin-2-yl)methanol | C(=C)C=1C=CC(=NC1)CO | C8H9NO
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | (5-(2-(8-(hydroxymethyl)-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)ethyl)pyridin-2-yl)methanol | OCC1=CC=2C3=C(N(C2C=C1)CCC=1C=CC(=NC1)CO)CCN(C3)C | C21H25N3O2
